US06639097B1
A solution of phosphorous acid (2.87 g in water (50 ml)) was stirred for 1 hour with a solution of sodium hydroxide (2.8 g in water (50 ml)). Propyl 3-(dimethyiamino)propylcarbamate hydrochloride (15.7 g) in water (50 ml) was added and the mixture stirred for 30 min, evaporated to dryness, dichloromethane (450 ml) added and re-evaporated. The residue was dissolved in dichloromethane (150 ml) allowed to stand for 1 hour and the insoluble white solid (sodium chloride) filtered off. The filtrate was evaporated to leave dimethyl-[3-(propoxycarbonylamino)propyl]ammonium phosphite, as a viscous colorless oil.

reactant | phosphorous acid | 50 ml, 2.87 g | P(O)(O)O | H3O3P
reactant | sodium hydroxide | 50 ml, 2.8 g | [OH-].[Na+]
reactant | Propyl 3-(dimethyiamino)propylcarbamate hydrochloride | 15.7 g | Cl.CN(CCCNC(OCCC)=O)C
solvent | water | 50 ml | O | H2O
product | dimethyl-[3-(propoxycarbonylamino)propyl]ammonium phosphite | P([O-])([O-])[O-].C[NH+](CCCNC(=O)OCCC)C.C[NH+](C)CCCNC(=O)OCCC.C[NH+](C)CCCNC(=O)OCCC | InChI=1S/3C9H20N2O2.O3P/c3*1-4-8-13-9(12)10-6-5-7-11(2)3;1-4(2)3/h3*4-8H2,1-3H3,(H,10,12);/q;;;-3/p+3
